US07727985B2
4-[2-(2,6-Dimethyl-morpholin-4-yl)-2-oxo-ethyl]-6,6-dimethyl-morpholine-3-carboxylic acid (6-chloro-9H-b-carbolin-8-yl)-amide
The desired compound was prepared using [5-(6-Chloro-9H-beta-carbolin-8-ylcarbamoyl)-2,2-dimethyl-morpholin-4-yl]-acetic acid and 2,6-dimethyl morpholine following Method F. Chromatographic purification gave the desired product in 70-80% yield.

reactant | [5-(6-Chloro-9H-beta-carbolin-8-ylcarbamoyl)-2,2-dimethyl-morpholin-4-yl]-acetic acid | ClC=1C=C2C=3C=CN=CC3NC2=C(C1)NC(=O)C1COC(CN1CC(=O)O)(C)C | C20H21ClN4O4
reactant | 2,6-dimethyl morpholine | CC1CNCC(O1)C | C6H13NO
product | 4-[2-(2,6-Dimethyl-morpholin-4-yl)-2-oxo-ethyl]-6,6-dimethyl-morpholine-3-carboxylic acid (6-chloro-9H-b-carbolin-8-yl)-amide | ClC=1C=C2C=3C=CN=CC3NC2=C(C1)NC(=O)C1N(CC(OC1)(C)C)CC(=O)N1CC(OC(C1)C)C | C26H32ClN5O4
